US08258144B2
A mixture of 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine (171 mg, 0.500 mmol), 4-amino-1-N-Boc-piperidine (100 mg, 0.500 mmol) and TEA (0.150 mL, 1.08 mmol) in dioxane (4 mL) was stirred at 70° C. for 20 h. Water and EtOAc were added. The organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give tert-butyl 4-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)piperidine-1-carboxylate (202 mg).

reactant | 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine | 0.500 mmol, 171 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H9Cl2N3O2S
reactant | 4-amino-1-N-Boc-piperidine | 0.500 mmol, 100 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)piperidine-1-carboxylate | 202 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C23H28ClN5O4S
